US04022607
To a cooled (ice/water) solution of 4.2 g. of 2-ethylthio-4,5-diphenyl-oxazole pre-dissolved in 30 ml. of methylene chloride is added in portions over 5 minutes, 30 g. of m-chloro-peroxybenzoic acid. Examination by TLC after 2 hours indicates the presence of essentially all of the sulfinyl compound (reaction complete). The precipitated m-chloro-benzoic acid is filtered off and the methylene chloride solution is washed successively with a 10 % solution of sodium sulfite and with saturated sodium bicarbonate solution, dried, evaporated in vacuo to dryness, and the residue further dried overnight in vacuo to yield 2-ethylsulfinyl-4,5-diphenyl-oxazole, m.p. 133°-134° C.

reactant | 2-ethylthio-4,5-diphenyl-oxazole | C(C)SC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C17H15NOS
reactant | m-chloro-peroxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-ethylsulfinyl-4,5-diphenyl-oxazole | C(C)S(=O)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C17H15NO2S
